US08357764B2
2-Ethyl-4-methyl imidazole (22 g; 0.2 mole) and hexamethylene diisocyanate (16.8 g; 0.1 mole) were reacted following the procedure of Example A. The 2-ethyl-4-methyl imidazole-hexamethylene diisocyanate adduct was obtained as a solid product.

reactant | 2-Ethyl-4-methyl imidazole | 0.2 mole, 22 g | C(C)C=1NC=C(N1)C | C6H10N2
reactant | hexamethylene diisocyanate | 0.1 mole, 16.8 g | C(CCCCCN=C=O)N=C=O | C8H12N2O2
product | 2-ethyl-4-methyl imidazole hexamethylene diisocyanate | C(C)C=1NC=C(N1)C.C(CCCCCN=C=O)N=C=O | InChI=1S/C8H12N2O2.C6H10N2/c11-7-9-5-3-1-2-4-6-10-8-12;1-3-6-7-4-5(2)8-6/h1-6H2;4H,3H2,1-2H3,(H,7,8)
